US06265426B1
5-(3-Benzyloxy-4-methoxy-phenyl)-3-(3-pyrrolidin-1-ylmethyl-phenyl)-1H-[1,2,4]triazole hydrochloride (1:1) (mixture of tautomers)
To a stirred ethanolic suspension of 3-pyrrolidin-1-ylmethyl-benzamidine hydrochloride salt (1:2) (414 mg, 1.5 mmol, 1.5 eq.) in ethanol (15 ml) was added 1.2N NaOEt in ethanol (3.4 ml, 4 eq.) over 3 min. and stirring was then continued for 30 min. at r.t. 3-Benzyloxy-4-methoxy-benzoic acid hydrazide (272 mg, 1 mmol) in ethanol was added at 20° C. and the resulting mixture was heated to reflux for 50 hrs. Upon cooling, the product mixture was filtered, the solvent was evaporated and the residue chromatographed over 20 g SiO2 (Merck 230-400 mesh) with CH2Cl2-MeOH (2M NH3) 96:4 affording a solid. This material was dissolved in ethanol at r.t. and an excess 2N HCl/ether solution (1.0 ml, 2 mmol) was added. After 30 min. the solvent was evaporated and the residue dried under high vacuum at 30° C. overnight affording the title compound (326 mg, 89% yield) as a yellow solid. MS: m/e=441.6 (M+H+)

reactant | 3-pyrrolidin-1-ylmethyl-benzamidine hydrochloride salt | 1.5 mmol, 414 mg, 1.5 eq. | Cl.N1(CCCC1)CC=1C=C(C(=N)N)C=CC1
reactant | NaOEt | 1.2N | CC[O-].[Na+]
reactant | 3-Benzyloxy-4-methoxy-benzoic acid hydrazide | 1 mmol, 272 mg | C(C1=CC=CC=C1)OC=1C=C(C(=O)NN)C=CC1OC | C15H16N2O3
reactant | HCl ether | 2 mmol, 2N, 1.0 ml | Cl.CCOCC
solvent | ethanol | 15 ml | C(C)O | C2H6O
solvent | ethanol | 3.4 ml, 4 eq. | C(C)O | C2H6O
product | 5-(3-Benzyloxy-4-methoxy-phenyl)-3-(3-pyrrolidin-1-ylmethyl-phenyl)-1H-[1,2,4]triazole hydrochloride | 326 mg, 89% yield | Cl.C(C1=CC=CC=C1)OC=1C=C(C=CC1OC)C1=NC(=NN1)C1=CC(=CC=C1)CN1CCCC1 | InChI=1S/C27H28N4O2.ClH/c1-32-24-13-12-23(17-25(24)33-19-20-8-3-2-4-9-20)27-28-26(29-30-27)22-11-7-10-21(16-22)18-31-14-5-6-15-31;/h2-4,7-13,16-17H,5-6,14-15,18-19H2,1H3,(H,28,29,30);1H
